US05496875
b) Preparation of octyl 1,2,2,6,6-pentamethyl-4-piperidyl succinate.
A mixture of 35.3 g (0.13 mol) of mono(1,2,2,6,6-pentamethyl-4-piperidyl) succinate, 25.1 g (0.13 mol) of 1-bromooctane and 13.2 g (0.13 mol) of triethylamine in 70 ml of anhydrous N,N-dimethylacetamide is heated for 4 hours at 85° C. After cooling to ambient temperature, 200 ml of water and 150 ml of toluene are added and a solution of 18 g (0.13 mol) of K2CO3 in 50 ml of water is then added slowly. After the end of the addition, the mixture is stirred for 15 minutes, the aqueous phase is separated off and the organic phase is washed with water until neutral and evaporated. The residue is distilled in vacuo. The product obtained has a boiling of 170° C./4 mbar.

reactant | mono(1,2,2,6,6-pentamethyl-4-piperidyl) succinate | 0.13 mol, 35.3 g | C(CCC(=O)[O-])(=O)OC1CC(N(C(C1)(C)C)C)(C)C
reactant | 1-bromooctane | 0.13 mol, 25.1 g | BrCCCCCCCC | C8H17Br
reactant | triethylamine | 0.13 mol, 13.2 g | C(C)N(CC)CC | C6H15N
reactant | K2CO3 | 0.13 mol, 18 g | C(=O)([O-])[O-].[K+].[K+]
solvent | N,N-dimethylacetamide | 70 ml | CN(C(C)=O)C | C4H9NO
solvent | water | 50 ml | O | H2O
solvent | water | 200 ml | O | H2O
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | octyl 1,2,2,6,6-pentamethyl-4-piperidyl succinate | C(CCC(=O)OC1CC(N(C(C1)(C)C)C)(C)C)(=O)OCCCCCCCC | C22H41NO4
